US06353025B1
Ethyl N-[2-bromo-4-(2-bromoethyl)phenyl]aminoacetate was prepared according to a similar manner to that described in Reference Example 6 using 1 molar equivalent of both N-bromosuccinimide and 0.4M aqueous sodium thiosulfate solution to ethyl N-[4-(2-bromo-ethyl)phenyl]aminoacetate.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | 0.4M | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl N-[4-(2-bromo-ethyl)phenyl]aminoacetate | BrCCC1=CC=C(C=C1)NCC(=O)OCC | C12H16BrNO2
product | Ethyl N-[2-bromo-4-(2-bromoethyl)phenyl]aminoacetate | BrC1=C(C=CC(=C1)CCBr)NCC(=O)OCC | C12H15Br2NO2
